US08466282B2
N-[(3S,5R)-5-carbamoylpiperidin-3-yl]-1-(4-methoxybutyl)-N-(2-methylpropyl)-1H-benzimidazole-2-carboxamide dihydrochloride
tert-Butyl (3R,5S)-3-carbamoyl-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate (260 mg) was dissolved in ethyl acetate (3 ml), 4N hydrogen chloride-ethyl acetate (5 ml) was added, and the mixture was stirred for 1 hr. The solvent was evaporated under reduced pressure to give the object product (220 mg).

reactant | tert-Butyl (3R,5S)-3-carbamoyl-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 260 mg | C(N)(=O)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C | C28H43N5O5
reactant | hydrogen chloride-ethyl acetate | 4N, 5 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | N-[(3S,5R)-5-carbamoylpiperidin-3-yl]-1-(4-methoxybutyl)-N-(2-methylpropyl)-1H-benzimidazole-2-carboxamide dihydrochloride | 220 mg | Cl.Cl.C(N)(=O)[C@@H]1C[C@@H](CNC1)N(C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)CC(C)C | InChI=1S/C23H35N5O3.2ClH/c1-16(2)15-28(18-12-17(21(24)29)13-25-14-18)23(30)22-26-19-8-4-5-9-20(19)27(22)10-6-7-11-31-3;;/h4-5,8-9,16-18,25H,6-7,10-15H2,1-3H3,(H2,24,29);2*1H/t17-,18+;;/m1../s1
